US06020340
F. 7-Methoxy-2-cyclopentylbenzofuran-4-carboxylic acid
0.5 g of 7-methoxy-2-cyclopentylbenzofuran-4carbonitrile is heated to reflux for 5 h in a solution of 10 ml of n-butanol, 30 ml of sodium hydroxide solution (50% strength) and 2.5 ml of hydrogen peroxide (30% strength). The mixture is then diluted with ice water, acidified to pH 1-2 with 2 N hydrochloric acid and the precipitate formed is filtered off with suction, washed with water until acid-free and dried in vacuo: m.p. 170-171° C.

reactant | 7-methoxy-2-cyclopentylbenzofuran-4carbonitrile | 0.5 g | COC=1C=CC(=C2C=C(OC21)C2CCCC2)C#N | C15H15NO2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 2.5 ml | OO | H2O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 7-Methoxy-2-cyclopentylbenzofuran-4-carboxylic acid | COC=1C=CC(=C2C=C(OC21)C2CCCC2)C(=O)O | C15H16O4
